US06329550B1
20.1 Synthesis of N,N′-diphenethyl-2-((S)-2-bromo-6-phthalimidohexanoylamino)malonamide
Prepare by the method of Example 3.3 using N,N′-diphenethyl-2-aminomalonamide trifluoroacetic acid salt (20 mmol) and (R)-2-bromo-6-phthalimidohexanoic acid (25 mmol) to give the title compound.

reactant | N,N′-diphenethyl-2-aminomalonamide trifluoroacetic acid salt | 20 mmol | FC(C(=O)O)(F)F.C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)N)=O
reactant | (R)-2-bromo-6-phthalimidohexanoic acid | 25 mmol | Br[C@@H](C(=O)O)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H14BrNO4
product | N,N′-diphenethyl-2-((S)-2-bromo-6-phthalimidohexanoylamino)malonamide | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@H](CCCCN1C(C=2C(C1=O)=CC=CC2)=O)Br)=O)=O | C33H35BrN4O5
